US08686005B2
Preparation of (R)-1-Amino-3-(2,4-dimethylphenoxy)propan-2-ol
To a solution of (R)—N-(2,3-epoxypropyl)-phthalimide (3.0 g, 14.8 mmol) and 2,4-dimethylphenol (1.6 g, 13.0 mmol) in toluene (30 mL) was added DBU (1.3 mmol) and the resulting mixture was heated at 120° C. for 18 h. The reaction mixture was cooled to 75° C., diluted with isopropanol (50 mL) and treated with hydrazine (4 mL). After stirring the mixture at 80° C. for 4 h, cooled to room temperature and solvents were evaporated in vacuo. The residue was dissolved in aq. NaOH (100 mL, 5 N) and extracted with chloroform (2×100 mL). The combined organic layer was washed with brine (100 mL) and dried over Na2SO4. The solvent was filtered and evaporated in vacuo to afford the desired product as an off-white solid. Yield: 1.7 g, 59% LCMS [M+H]+ 196.1 The product can be recrystallized from isopropyl alcohol.

reactant | (R)—N-(2,3-epoxypropyl)-phthalimide | 14.8 mmol, 3.0 g | O1[C@H](CN2C(C=3C(C2=O)=CC=CC3)=O)C1 | C11H9NO3
reactant | 2,4-dimethylphenol | 13.0 mmol, 1.6 g | CC1=C(C=CC(=C1)C)O | C8H10O
reactant | DBU | 1.3 mmol | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrazine | 4 mL | NN | H4N2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | (R)-1-Amino-3-(2,4-dimethylphenoxy)propan-2-ol | NC[C@H](COC1=C(C=C(C=C1)C)C)O | C11H17NO2
